US06441023B1
3-Biphenyl-4-yl-2-methyl-2-(1-methyl-1H-imidazole-2-sulfonyl)-propionic acid ethyl ester was prepared according to the general method as outlined in example 9. Starting from 2-methyl-(1-methyl-1H-imidazolesulfonyl)-propionic acid ethyl ester Prepared from (1-Methyl-2-mercapto imidazole and 2-bromo ethyl propionate) (3.0 g, 12.2 mmol) and 4 chloromethylbiphenyl (2.97 g,15 mmol). Yield 5.0 g (99 %); low melting solid; MS 413 (M+H)+.

reactant | 2-methyl-(1-methyl-1H-imidazolesulfonyl)-propionic acid ethyl ester | C(C)OC(C(C)(C)S(=O)(=O)C=1N(C=CN1)C)=O | C10H16N2O4S
reactant | 1-Methyl-2-mercapto imidazole | CN1C(=NC=C1)S | C4H6N2S
reactant | chloromethylbiphenyl | 15 mmol, 2.97 g | ClCC1=C(C=CC=C1)C1=CC=CC=C1 | C13H11Cl
product | 3-Biphenyl-4-yl-2-methyl-2-(1-methyl-1H-imidazole-2-sulfonyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)C1=CC=CC=C1)(S(=O)(=O)C=1N(C=CN1)C)C)=O | C22H24N2O4S
